US08703941B2
Ammonia gas was bubbled into a solution of 1,4-dioxaspiro[4.5]decan-8-one (31.2 g, 199.77 mmol, 1.00 equiv) in methanol (300 mL). The resulting solution was stirred for 8 hrs at 0-10° C. This was followed by the addition of sodium borohydride (11.4 g, 301.35 mmol, 1.51 equiv) in several batches at 0-10° C. The resulting solution was stirred for 1 h at room temperature. The resulting solution was diluted with 50 mL of water. The resulting solution was extracted with 4×300 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 2×100 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum to yield 20 g (64%) of 1,4-dioxaspiro[4.5]decan-8-amine as colorless oil.

reactant | Ammonia | N | H3N
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 199.77 mmol, 31.2 g, 1.00 equiv | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | sodium borohydride | 301.35 mmol, 11.4 g, 1.51 equiv | [BH4-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 1,4-dioxaspiro[4.5]decan-8-amine | 20 g, 64% | O1CCOC12CCC(CC2)N | C8H15NO2
